US09334279B2
To a solution of (2S,4R)-1-((2S,3R)-2-(tert-butoxycarbonylamino)-3-ethyl-5-methylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid (1.3 g, 3.05 mmole) in dichloromethane (50 mL) was added HATU (1.15 g, 3.05 mmole) followed by DIPEA (1.6 mL, 9.13 mmole) at room temperature. The reaction mass was stirred at the same temperature for 10 min. (1R,2S)-1-amino-N-(cyclopropylsulfonyl)-2-vinylcyclopropanecarboxamide (1.22 g, 3.05 mmole) was added to the reaction mass and the mixture was stirred at room temperature for 1 h. The reaction mass was diluted with dichloromethane and washed with water. The organic layer was dried over anhydrous Na2SO4; filtered; then concentrated under reduced pressure to get the crude compound. The crude compound was purified by silica gel chromatography (6% methanol in chloroform) to get 1.7 g (87%) of tert-butyl (2S,3R)-1-((2S,4R)-2-((1R,2S)-1-(cyclopropylsulfonylcarbamoyl)-2-vinylcyclopropylcarbamoyl)-4-hydroxypyrrolidin-1-yl)-3-ethyl-5-methyl-1-oxonon-8-en-2-ylcarbamate as a white solid. MS: MS m/z 639.55 (M++1).

reactant | (2S,4R)-1-((2S,3R)-2-(tert-butoxycarbonylamino)-3-ethyl-5-methylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid | 3.05 mmole, 1.3 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)O)[C@@H](CC(CCC=C)C)CC | C22H38N2O6
reactant | HATU | 3.05 mmole, 1.15 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 9.13 mmole, 1.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (1R,2S)-1-amino-N-(cyclopropylsulfonyl)-2-vinylcyclopropanecarboxamide | 3.05 mmole, 1.22 g | N[C@]1([C@@H](C1)C=C)C(=O)NS(=O)(=O)C1CC1 | C9H14N2O3S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | tert-butyl (2S,3R)-1-((2S,4R)-2-((1R,2S)-1-(cyclopropylsulfonylcarbamoyl)-2-vinylcyclopropylcarbamoyl)-4-hydroxypyrrolidin-1-yl)-3-ethyl-5-methyl-1-oxonon-8-en-2-ylcarbamate | 1.7 g, 87% | C1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)[C@H]1N(C[C@@H](C1)O)C([C@H]([C@@H](CC(CCC=C)C)CC)NC(OC(C)(C)C)=O)=O | C31H50N4O8S
